### PR TITLE
verification for deferred cache flush in untyped reset

### PR DESCRIPTION
**Pull request by lsf37**
Verification update for PR seL4/seL4#1289 where we defer the cache flush from untyped reset to the actual retype operation, which means that only flushes that are actually necessary will be performed.

This reduces the time for an untyped reset from 25 sec to 1.5 sec on the `tx2` board with 8GB of memory. Smaller, but still significant benefits for boards with less memory.

This was a lot more fiddly than I thought and touches some ugly old proofs. I've tried to streamline them at least a little bit and make them more consistent, but they have not become much prettier.

Test with: seL4/seL4#1289

### CODE REVIEW

**Comment by lsf37** [comment]
Right, I forgot to update RISCV64 and X64 for the new `init_arch_objs` parameter. Will add.

**Comment by lsf37** [comment]
Now done. The two additional commits should probably be squashed into the first two.

File: lib/Monad_Commute.thy [hunk 1]
```diff
@@ -140,6 +140,21 @@ lemma mapM_x_commute:
   apply auto
   done
 
+(* Needs separate proof to mapM_x_commute to eliminate "distinct" *)
```
Comment (Xaphiosis) [inline lib/Monad_Commute.thy:143]: Hard to comprehend, suggest: `... separate proof from ...`

File: spec/machine/ARM/MachineOps.thy [hunk 2]
```diff
@@ -454,14 +454,12 @@ where
 
 section "Memory Clearance"
 
-text \<open>Clear memory contents to recycle it as user memory\<close>
+text \<open>Clear memory contents to recycle it as user memory. Do not yet flush the cache.\<close>
```
Comment (Xaphiosis) [inline spec/machine/ARM/MachineOps.thy:457]: does this comment exist on ARM_HYP? didn't change there, only ARM+AARCH64

File: spec/haskell/src/SEL4/Object/ObjectType/ARM.lhs [hunk 3]
```diff
@@ -218,12 +218,20 @@ Create an architecture-specific object.
 >             modify (\ks -> ks { gsUserPages =
 >               funupd (gsUserPages ks)
 >                      (fromPPtr regionBase) (Just ARMSmallPage)})
+>             when (not isDevice) $ doMachineOp $
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/ObjectType/ARM.lhs:221]: nitpick: when (not P) == unless P

File: proof/invariant-abstract/ARM_HYP/ArchVSpaceEntries_AI.thy [hunk 4]
```diff
@@ -600,26 +600,25 @@ lemma init_arch_objects_valid_pdpt:
...
+                   in hoare_post_imp, simp)
    apply wp
-  apply simp
+   apply (rule mapM_x_wp')
+   apply (wp copy_global_mappings_valid_pdpt_objs)
+   apply clarsimp
+   apply (drule_tac sz=sz in retype_addrs_aligned)
+      apply (simp add:range_cover_def)
+     apply (drule range_cover.sz,simp add:word_bits_def)
+    apply (simp add:range_cover_def)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVSpaceEntries_AI.thy:619]: while we're here, spaces after `:`?

File: proof/drefine/Untyped_DR.thy [hunk 5]
```diff
@@ -695,10 +695,25 @@ lemma clearMemory_unused_corres_noop:
...
+lemma dcorres_mapM_x_machine_op_noop:
+  "\<lbrakk> \<And>m r. \<lbrace>\<lambda>ms. underlying_memory ms = m\<rbrace> mop r \<lbrace>\<lambda>rv ms. underlying_memory ms = m\<rbrace> \<rbrakk>
+       \<Longrightarrow> dcorres dc \<top> \<top> (return ()) (mapM_x (\<lambda>r. do_machine_op (mop r)) xs)"
+  apply (induct xs)
+   apply (simp add: mapM_x_Nil)
+  apply (simp add: mapM_x_Cons)
+  apply (rule corres_guard_imp)
+    apply (rule corres_split_noop_rhs)
+      apply (rule dcorres_machine_op_noop, assumption)
+     apply assumption
```
Comment (Xaphiosis) [inline proof/drefine/Untyped_DR.thy:711]: can wpsimp+ from here?

File: proof/crefine/AARCH64/Recycle_C.thy [hunk 6]
```diff
@@ -268,30 +266,27 @@ lemma clearMemory_PageCap_ccorres:
...
-      apply (rule conjI)
-       apply (rule is_aligned_power2)
-       apply (clarsimp simp: pageBitsForSize_def split: vmpage_size.splits)
-      apply (clarsimp simp: ghost_assertion_size_logic[unfolded o_def])
+   apply (rule_tac P="?P" in ccorres_from_vcg[where P'=UNIV])
+   apply (rule allI, rule conseqPre, vcg)
+   apply (clarsimp simp: valid_cap'_def capAligned_def
+                         is_aligned_no_wrap'[OF _ word64_power_less_1])
+   apply (prop_tac "ptr \<noteq> 0")
+  subgoal
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Recycle_C.thy:276]: subgoal indentation if you care

File: proof/invariant-abstract/Untyped_AI.thy [hunk 7]
```diff
@@ -279,12 +279,15 @@ locale Untyped_AI_arch =
...
+  "\<And>x cref ty dev ptr n us y.
+     \<lbrace>\<lambda>(s::'state_ext state). descendants_range x cref s \<rbrace>
+     init_arch_objects ty dev ptr n us y
+     \<lbrace>\<lambda>rv s. descendants_range x cref s\<rbrace>"
   assumes  init_arch_objects_caps_overlap_reserved[wp]:
-  "\<And>S ty ptr n us y. \<lbrace>\<lambda>(s::'state_ext state). caps_overlap_reserved S s\<rbrace>
-   init_arch_objects ty ptr n us y
-   \<lbrace>\<lambda>rv s. caps_overlap_reserved S s\<rbrace>"
+  "\<And>S ty dev ptr n us y.
+     \<lbrace>\<lambda>(s::'state_ext state). caps_overlap_reserved S s\<rbrace>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Untyped_AI.thy:288]: in git viewer this indent is unclear, is it supposed to be two spaces under meta-forall?

File: proof/crefine/AARCH64/Retype_C.thy [hunk 8]
```diff
@@ -5818,6 +5818,41 @@ lemma updatePTType_ccorres:
...
+  hs
+  (placeNewDataObject regionBase us False)
+  (global_htd_update (\<lambda>s. (ptr_retyps (2^us) (Ptr regionBase :: user_data_C ptr))))"
+  apply (simp add: placeNewDataObject_def ccorres_cond_empty_iff)
+  apply (rule ccorres_guard_imp, rule placeNewObject_user_data, simp_all)
+  apply (clarsimp simp: createObject_hs_preconds_def invs'_def
+                        valid_state'_def valid_pspace'_def)
+  apply (frule range_cover.sz(1), simp add: word_bits_def)
+  done
+
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Retype_C.thy:5850]: extra newline

File: proof/crefine/AARCH64/Retype_C.thy [hunk 9]
```diff
@@ -5866,31 +5901,62 @@ proof -
...
+         apply (rule ccorres_split_nothrow_novcg)
+             apply (rule placeNewDataObject_no_dev_ccorres[where us=18 and newType=newType, simplified])
+            apply ceqv
+           apply  (ctac (no_vcg) add: gsUserPages_update_ccorres[folded modify_gsUserPages_update])
+             apply csymbr+
+             apply (rule ccorres_Guard_Seq)
+             apply (ctac (no_vcg) add: cleanCacheRange_RAM_ccorres)
+              apply csymbr
+              apply (rule ccorres_return_C; simp)
+             apply wp
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Retype_C.thy:5943]: out of curiosity: is there any reason why you prefer wp over wpsimp in this proof?

File: proof/refine/ARM/Detype_R.thy [hunk 10]
```diff
@@ -4533,26 +4552,97 @@ lemma doMachineOp_ksArchState_commute:
...
+  apply (force simp add: select_f_def empty_fail_def)
+  done
+
+lemma doMachineOp_projectKO_pde:
+  "empty_fail f \<Longrightarrow> monad_commute \<top> (doMachineOp f) (projectKO ko :: pde kernel)"
+  apply (clarsimp simp: monad_commute_def doMachineOp_def bind_assoc projectKO_def)
+  apply monad_eq
+  by (force split: option.splits simp: fail_def return_def select_f_def empty_fail_def)
+
+lemma doMachineOp_alignCheck:
```
Comment (Xaphiosis) [inline proof/refine/ARM/Detype_R.thy:4582]: I might discover this later in the review, but are all the doMachineOp lemmas in this file new, or moved?

File: proof/refine/ARM_HYP/Retype_R.thy [hunk 11]
```diff
@@ -5561,6 +5553,28 @@ lemma data_page_relation_retype:
    apply (clarsimp simp: image_def)+
   done
 
+lemma init_arch_objects_APIType_map2_VCPU_noop:
+  "init_arch_objects (APIType_map2 (Inr VCPUObject)) dev ptr n m addrs = return ()"
+  apply (simp add: init_arch_objects_def APIType_map2_def)
+  done
+
+lemma reorder_createObjects_dmo_userPages:
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/Retype_R.thy:5561]: not sure this is a reorder, it's only assoc

File: proof/refine/AARCH64/Retype_R.thy [hunk 12]
```diff
@@ -5385,6 +5389,45 @@ lemma data_page_relation_retype:
...
+    od) = (do
+      (addrs, faddrs) <- (do
+        addrs <- createObjects y n ko sz;
+        _ <- modify (\<lambda>ks. ks\<lparr>ksArchState := gsPTTypes_update (g ks addrs) (ksArchState ks)\<rparr>);
+        return (addrs, f addrs)
+       od);
+      _ <- mapM_x (\<lambda>addr. doMachineOp (m addr)) addrs;
+      return faddrs
+    od)"
+  by (simp add: bind_assoc)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Retype_R.thy:5429]: not sure how I'd improve this, but these "reorder" lemmas (that don't actually reorder) are very specific, and a lot of the specifics don't matter; would it be worth at least abstracting these a bit? The second one looks a lot like the first one with P=True, etc.

File: proof/crefine/ARM_HYP/Retype_C.thy [hunk 13]
```diff
@@ -7990,6 +8184,14 @@ lemma insertNewCap_ccorres:
   apply (simp add: untypedZeroRange_def Let_def)
   done
 
+lemma Arch_createObject_not_untyped:
+  "\<forall>s. \<Gamma>\<turnstile>\<^bsub>/UNIV\<^esub>
+   {s} Call Arch_createObject_'proc {t. cap_get_tag (ret__struct_cap_C_' t) \<noteq> scast cap_untyped_cap}"
```
Comment (Xaphiosis) [inline proof/crefine/ARM_HYP/Retype_C.thy:8189]: I'm a bit lost as to why this spec override is needed (i.e. how you came up with it)

File: proof/crefine/ARM_HYP/Retype_C.thy [hunk 14]
```diff
@@ -7808,6 +7962,43 @@ lemma cleanCacheRange_PoU_preserves_bytes:
...
+                          \<and> byte_regions_unmodified' s t}" for s])
+  apply (rule conseqPre, vcg exspec=cleanByVA_preserves_bytes)
+  by (safe intro!: byte_regions_unmodified_hrs_mem_update
+            elim!: byte_regions_unmodified_trans byte_regions_unmodified_trans[rotated],
+      (simp_all add: h_t_valid_field)+)
+
+lemma cleanCacheRange_RAM_preserves_bytes:
+  "\<forall>s. \<Gamma>\<turnstile>\<^bsub>/UNIV\<^esub> {s} Call cleanCacheRange_RAM_'proc
+      {t. hrs_htd (t_hrs_' (globals t)) = hrs_htd (t_hrs_' (globals s))
+         \<and> byte_regions_unmodified' s t}"
```
Comment (Xaphiosis) [inline proof/crefine/ARM_HYP/Retype_C.thy:7991]: is it the case that we can prove these on ARM and ARM_HYP but we need to assume these on AARCH64 because we made them machine ops?

**Review by Xaphiosis — APPROVED** [review]
I think this is not that bad, and the performance improvement on the seL4 side is definitely good.
Could I ask why x64 and RISCV are having such an easier time with this compared to the Arms?
For squashing, yes, I think the proofs update can be one commit (maybe add a note as to why it's mostly Arm-related).
Also small request: can this go in after the design spec arch-split overhaul?

File: proof/crefine/ARM_HYP/Retype_C.thy (hunk 14 above)
Comment (lsf37) [reply proof/crefine/ARM_HYP/Retype_C.thy:7991]: Yes, that is the case. It first made me question whether we should go to lower-level machine ops for AARCH64 as well, but I think the current level is still reasonable.

**Comment by lsf37** [comment]
> I think this is not that bad, and the performance improvement on the seL4 side is definitely good. Could I ask why x64 and RISCV are having such an easier time with this compared to the Arms?

RISCV64 and X64 have different cache flushing requirements -- on X64 the architecture doesn't require it, and the RISCV boards we are currently running don't have the level of caches that would need to be flushed, so there are only interface changes for those two, but content changes for ARM.

> For squashing, yes, I think the proofs update can be one commit (maybe add a note as to why it's mostly Arm-related). 

👍 

> Also small request: can this go in after the design spec arch-split overhaul?

No problem!

File: proof/crefine/ARM_HYP/Retype_C.thy (hunk 13 above)
Comment (lsf37) [reply proof/crefine/ARM_HYP/Retype_C.thy:8189]: The proof that follows this one previously just ran`vcg` which happened to either unfold everything or use `modifies` rules for `Arch_createObject`, depending on which arch it was from. That unfolding now draws in cache functions which have loops and are quite big.

It turns out, that the proof doesn't actually need anything at all from `Arch_createObject`: it was only interested in the case where a new untyped cap was returned, which `Arch_createObject` never does. So I proved that instead, which can also be done without further unfolding inside `Arch_createObject` and leads to faster proofs all around.

Comment (Xaphiosis) [reply proof/crefine/ARM_HYP/Retype_C.thy:8189]: Nice. This is a super-annoying part of CRefine, making sure to always keep one's eye out for situations like this, preventing explosions.

**Comment by lsf37** [comment]
(rebased on current master)

File: proof/crefine/AARCH64/Retype_C.thy (hunk 9 above)
Comment (lsf37) [reply proof/crefine/AARCH64/Retype_C.thy:5943]: If the `simp` is not necessary, I tend to prefer just `wp` because it's the less complex method and adding clarsimp into the mix at the end can mask problems later (although it can also solve simple unexpected new side goals, so it's not a completley clear cut argument -- I think I just like to use the simpler methods when they should suffice)

File: proof/refine/AARCH64/Retype_R.thy (hunk 12 above)
Comment (lsf37) [reply proof/refine/AARCH64/Retype_R.thy:5429]: They are more assoc/regroup lemmas than reorder lemmas, I should probably rename. I don't see a good way to abstract them, though, the second one talks about gsPTTypes_update, whereas first one is about gsUserPages with a different form of term pattern. I need to spell out the rest so that g, ks, address etc match the right parts of the rest term. We could make it slightly more abstract by replacing the mapM_x and doMachineOp with variables, but that risks those variables being matched wrong in HO unification. They are really just helpers for extremely specific situations.

Comment (lsf37) [reply proof/refine/AARCH64/Retype_R.thy:5429]: (have renamed them to `regroup_...` now)

File: proof/refine/ARM/Detype_R.thy (hunk 10 above)
Comment (lsf37) [reply proof/refine/ARM/Detype_R.thy:4582]: changed versions of moved lemmas (some where not phrased with monad_commute before, but the originals where in the same theoory). I guess we could move them further up, but we also do not seem to need them anywhere else, so I tried to keep noise low.

File: spec/haskell/src/SEL4/Object/ObjectType/ARM.lhs (hunk 3 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/ObjectType/ARM.lhs:221]: True, but the `not` lines up more nicely with C

File: spec/machine/ARM/MachineOps.thy (hunk 2 above)
Comment (lsf37) [reply spec/machine/ARM/MachineOps.thy:457]: Well spotted, have updated.
